Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chief Complaint: dizziness and lightheadedness 
Reason for MICU transfer: ___  

 
Major Surgical or Invasive Procedure:
placement of central venous line
 
History of Present Illness:
___ yrs. yo F with PMH NIDDM on metformin who presents with 
dizziness and lightheadedness progressively worsening x 3 weeks 
referred into ED from clinic for abnormal labs including glc 
>700.  Patient reports polydipsia, polyuria (up 4 times nightly 
to urinate), blurry vision, lack of appetite and weight loss of 
___ lb since ___.  Patient otherwise denies cp, sob, HA, any 
abdominal pain, urinary symptoms (except frequency), no fever. 
Last A1C noted to be 7.3% (___). She does not regularly 
check her blood sugars at home.  Patient states she is compliant 
with metformin 500 mg once daily.  Denies that these symptoms 
have ever occured in the past. 

She notes that 3 weeks ago, she did have some nasal congeston 
with productive cough. She denies any associated shortness of 
breath, headache, sinus tenderness, or fevers at that time. She 
also had a dental cleaning around that time for which she 
received unknown antibiotic.

In clinic, patient was also found to have elevated creat (3.9) 
with Na 127, K 5.5, co2 12. Patient was subsequently referred to 
BI ED for treatment of DKA. In clinic, IVF were started and 
patient was given 8 units of insulin subcut. 

In the ED, initial vitals:  
17:55 0 98.8 122 90/71 16 99% RA 

Patient was started on insulin IV drip at 9 UNIT/HR and received 
a total of 3L NS in ED. CVL IJ was placed.
On arrival to the MICU,  patient has no complaints and states 
she feels much better.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes.  

 
Past Medical History:
HTN
Hypercholesterolemia
Morbid obesity
DMII

 
Social History:
___
Family History:
History of diabetes/hypertension on maternal/paternal sides. No 
history of CAD.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: T98 BP107/45 HR96 95% RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, R IJ in place
LUNGS: Clear to auscultation bilaterally
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: obese, soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
 
Pertinent Results:
ADMISSION LABS
___ 08:00PM BLOOD WBC-5.4 RBC-4.32 Hgb-13.0 Hct-39.5 MCV-91 
MCH-30.0 MCHC-32.8 RDW-13.8 Plt ___
___ 08:00PM BLOOD Neuts-74.9* ___ Monos-4.7 Eos-1.2 
Baso-0.6
___ 08:00PM BLOOD Plt ___
___ 03:26AM BLOOD ___ PTT-22.5* ___
___ 08:00PM BLOOD Glucose-662* UreaN-52* Creat-4.0*# 
Na-131* K-5.6* Cl-90* HCO3-6* AnGap-41*
___ 03:26AM BLOOD ALT-27 AST-19 AlkPhos-60 TotBili-0.2
___ 08:00PM BLOOD Phos-4.9* Mg-2.5
___ 03:26AM BLOOD %HbA1c-16.6* eAG-430*
___ 03:26AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:08PM BLOOD ___ pH-7.28*
___ 09:08PM BLOOD Glucose-GREATER TH Na-131* K-4.8 Cl-96 
calHCO3-14*
___ 04:02AM BLOOD Lactate-1.1

URINE
___ 01:32AM URINE Color-Straw Appear-Clear Sp ___
___ 01:32AM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-1000 Ketone-40 Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 01:32AM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 01:32AM URINE CastGr-3*

IMAGING
___ CXR
FINDINGS:   
A portable frontal chest radiograph demonstrates the right 
internal jugular central line, with the tip terminating at the 
cavoatrial junction.  Surgical skin staples are seen projecting 
over the right upper quadrant.  The cardiomediastinal silhouette 
is normal and the lungs are clear, without focal consolidation, 
pleural effusion, or pneumothorax. 
IMPRESSION:  
Right internal jugular line terminating at the cavoatrial 
junction. 

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ yrs. yo F with PMH NIDDM on metformin who 
presents with dizziness and lightheadedness progressively 
worsening x 3 weeks found to be in DKA.

# DKA: Patient hyperglycemic presenting initially with anion gap 
of 35 and pH 7.28. U/A with 1000 glc 40 ketones. Possible 
etiologies include insulin deficiency (possibly underdosed with 
metformin given repeat HbA1C of 16.6%) or infection with history 
of possible viral prodrome. Low suspicion for cardiac ischemia 
or intoxication triggering DKA given clinical history and 
negative serum/urine tox screen. Anion gap closed with insulin 
drip and patient was subsequently transitioned to subcutaneous 
insulin - she was then transferred from ICU to the regular 
floor. ___ was consulted and patient was started on fixed 
dose as well as meal time insulin prior to discharge. 

# ___ (Creat 1.1 on ___: Presumably prerenal vs ATN in the 
setting of DKA, polyuria, decreased po intake/decreased 
appetite. Renal function improved with IVF. 

# Hypertension: Held home lisinopril 40mg hctz 25mg in the 
setting of ___.
 
TRANSITIONAL ISSUE
- PLEASE RESTART LISINOPRIL AND HCTZ AS APPROPRIATE
- PLEASE CONSIDER ENDOCRINE REFERRAL AS APPROPRIATE
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. Glargine 28 Units Breakfast
Humalog 7 Units Breakfast
Humalog 7 Units Lunch
Humalog 7 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
RX *blood sugar diagnostic [FreeStyle Lite Strips]  check blood 
sugar at breakfast, lunch, dinner, bedtime Disp #*300 Strip 
Refills:*3
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) AS DIR 
28 Units before BKFT; Disp #*20 Syringe Refills:*3
RX *blood-glucose meter  check blood sugars at breakfast, lunch, 
dinner, bedtime Disp #*2 Kit Refills:*1
RX *insulin lispro [Humalog KwikPen] 100 unit/mL AS DIR Up to 9 
Units QID per sliding scale 7 Units before LNCH; Units QID per 
sliding scale 7 Units before DINR; Units QID per sliding scale 
Disp #*20 Syringe Refills:*3
RX *lancets 21 gauge check blood sugar at breakfast, lunch, 
dinner, bedtime Disp #*300 Each Refills:*3
2. Insulin Pen Needle
Insuline Pen Needle
use with lantus and humalog pen as directed
1 month supply
refill: 3

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
DIABETIC KETOACIDOSIS
NON INSULIN DEPENDENT DIABETES MELLITUS
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It has been our pleasure caring for you.  You were admitted 
because you were in diabetic ketoacidosis (your diabetes was 
dangerously not well contolled). We treated you with insulin, 
and we are glad to see that you are now feeling better.  You 
should continue to take insulin as instructed.

We wish you all the best!

Your ___ care team
 
Followup Instructions:
___